US07112698B2
(E)-1-(4-propoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one (DMU-191)
To a stirred solution of 4-propoxybenzaldehyde (1.5 ml, 9.5 mmol) and 3,4,5-trimethoxyacetophenone (2.0 g, 9.5 mmol) in methanol (30 ml) was added 50% w/v of aqueous sodium hydroxide (7.6 ml, 0.095 mol). The reaction was stirred for 24 h at room temperature. A precipitate was isolated by filtration, washed with pet:ether and subsequently recrystallised from ethanol to give 0.9 g (27%) of a pale yellow powder. 1H-NMR (CDCl3) δ 7.8 (d, 1H), 7.6 (d, 2H), 7.3 (d, 1H), 7.2 (m, 1H), 6.8 (d, 2H), 3.95 (m, 2H), 3.9 (s×2, 9H), 1.8 (t, 2H), 1.0 (t, 3H).

reactant | 4-propoxybenzaldehyde | 9.5 mmol, 1.5 ml | C(CC)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | 3,4,5-trimethoxyacetophenone | 9.5 mmol, 2.0 g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | sodium hydroxide | 0.095 mol, 7.6 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (E)-1-(4-propoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one | 0.9 g, 27% | C(CC)OC1=CC=C(C=C1)\C=C\C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C21H24O5
